### PR TITLE
feat: `Fin.foldl_succ'`, `Fin.foldr_succ'`

### PR DESCRIPTION
**Pull request by llllvvuu**

### CODE REVIEW

**Comment by llllvvuu** [comment]
awaiting-review

**Comment by llllvvuu** [comment]
wip

**Comment by llllvvuu** [comment]
awaiting-review

File: Batteries/Data/Fin/Lemmas.lean [hunk 1]
```diff
@@ -81,7 +88,28 @@ theorem foldr_loop (f : Fin (n+1) → α → α) (x) (h : m+1 ≤ n+1) :
...
+/-! ### foldl/foldr -/
+
+theorem foldl_rev (f : Fin n → α → α) (x) :
+    foldl n (fun x i ↦ f i.rev x) x = foldr n f x := by
+  induction n generalizing x with
+  | zero => rfl
+  | succ n ih => rw [foldl_succ, foldr_succ', ← ih]; simp [rev_succ]
+
+theorem foldr_rev (f : α → Fin n → α) (x) :
+     foldr n (fun i x ↦ f x i.rev) x = foldl n f x := by
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean:112]:
```suggestion
     foldr n (fun i x => f x i.rev) x = foldl n f x := by
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 2]
```diff
@@ -81,7 +88,28 @@ theorem foldr_loop (f : Fin (n+1) → α → α) (x) (h : m+1 ≤ n+1) :
...
+
 theorem foldr_eq_foldr_list (f : Fin n → α → α) (x) : foldr n f x = (list n).foldr f x := by
   induction n with
   | zero => rfl
   | succ n ih => rw [foldr_succ, ih, list_succ, List.foldr_cons, List.foldr_map]
+
+/-! ### foldl/foldr -/
+
+theorem foldl_rev (f : Fin n → α → α) (x) :
+    foldl n (fun x i ↦ f i.rev x) x = foldr n f x := by
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean:106]:
```suggestion
    foldl n (fun x i => f i.rev x) x = foldr n f x := by
```

**Comment by llllvvuu** [comment]
> I'm not a fan of `'` versions. How about `foldl_succ_last` and `foldr_succ_last`?

Works for me!

**Review by fgdorais — APPROVED** [review]
